US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 2-hydroxy-3-methylbenzaldehyde (0.25 mmol), methanol (1.0 mL), and acetic acid (0.040 mL) was added NaBH3CN (0.40 mmol) in methanol (0.50 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The resulting material was dissolved into ethyl acetate/methanol=5:1 (1 mL), loaded onto Varian™ Si column, eluted off using ethyl acetate/methanol=5:1 (5 mL), and concentrated. The residue was dissolved in methanol (2 mL) and 4 N HCl in dioxane (0.50 mL) was added. The solution was stirred at room temperature overnight and concentrated. The residue was dissolved in methanol, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. Preparative TLC afforded 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(2-hydroxy-3-methylbenzyl)piperidine (Compound No. 2106): The purity was determined by RPLC/MS (97%); ESI/MS m/e 447.0 (M++H, C23H28F2N4O3).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 2-hydroxy-3-methylbenzaldehyde | 0.25 mmol | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | acetic acid | 0.040 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.40 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 0.50 mL | CO | CH4O
solvent | methanol | 1.0 mL | CO | CH4O
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(2-hydroxy-3-methylbenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=C(C(=CC=C2)C)O)C=C(C(=C1)F)F | C23H28F2N4O3
